US07897597B2
Triethylamine (32.9 mL, 0.24 mol) was added to a solution of N-(6-benzyloxy-4-propylaminoquinolin-3-yl)-2-ethoxyacetamide hydrochloride (25.4 g) in ethanol (250 mL), and the reaction mixture was heated at reflux for 3 hours. The reaction mixture was allowed to cool to ambient temperature. The ethanol was removed under reduced pressure and the residue was dissolved in chloroform. The solution was washed sequentially with water and brine; dried over magnesium sulfate; filtered; and concentrated under reduced pressure. The resulting oil was dissolved in acetonitrile and concentrated under reduced pressure to yield 22.3 g of 8-benzyloxy-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinoline as a brown, crystalline solid.

reactant | Triethylamine | 0.24 mol, 32.9 mL | C(C)N(CC)CC | C6H15N
reactant | N-(6-benzyloxy-4-propylaminoquinolin-3-yl)-2-ethoxyacetamide hydrochloride | 25.4 g | Cl.C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)NC(COCC)=O)NCCC
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 8-benzyloxy-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinoline | 22.3 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CCC)COCC | C23H25N3O2
